US04320015
To a 250 ml Erlenmeyer flask was added 7.9 g (0.1 mole) ammonium bicarbonate, 2.01 g (0.05 mole) magnesium oxide, 100 ml distilled water, 4.9 g (0.1 mole) sodium cyanide. The mixture was stirred and 8.1 g (0.1) mole of a 37% solution of formaldehyde was added dropwise over 2 minutes. The mixture was stirred and let stand overnight. Then an additional 50 ml of water was added and 2.0 g magnesium oxide while carbon dioxide was bubbled through the mixture. A total of 11.5 g of carbon dioxide was added. The mixture was filtered and the filtrate evaporated to near dryness on a hot plate. A crude product of magnesium glycine carbamate was obtained (11.52 g) having an alkalinity value of 694 and containing 6.2% magnesium, 855 ppm calcium, 1.7% sodium and 9.8% nitrogen.

reactant | ammonium bicarbonate | 0.1 mole, 7.9 g | C([O-])(O)=O.[NH4+]
reactant | magnesium oxide | 0.05 mole, 2.01 g | [O-2].[Mg+2]
reactant | sodium cyanide | 0.1 mole, 4.9 g | [C-]#N.[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | water | 50 ml | O | H2O
product | magnesium glycine carbamate | C(N)([O-])=O.NCC(=O)O.[Mg+2].C(N)([O-])=O | InChI=1S/C2H5NO2.2CH3NO2.Mg/c3-1-2(4)5;2*2-1(3)4;/h1,3H2,(H,4,5);2*2H2,(H,3,4);/q;;;+2/p-2
